US09079919B2
(R)—N-(2′-Amino-5′,5′-difluoro-2,3,5′,6′-tetrahydrospiro[indene-1,4′-[1,3]oxazine]-6-yl)-5-cyanopicolinamide
The condensation of (R)-5′,5′-difluoro-2,3,5′,6′-tetrahydrospiro[indene-1,4′-[1,3]oxazine]-2′,6-diamine (intermediate A7.3) and 5-cyanopicolinic acid yielded the title compound (27% yield) as an off-white solid. MS (ISP): m/z=384.2 [M+H]+.

reactant | (R)-5′,5′-difluoro-2,3,5′,6′-tetrahydrospiro[indene-1,4′-[1,3]oxazine]-2′,6-diamine | FC1([C@@]2(N=C(OC1)N)CCC1=CC=C(C=C12)N)F | C12H13F2N3O
reactant | 5-cyanopicolinic acid | C(#N)C=1C=CC(=NC1)C(=O)O | C7H4N2O2
product | (R)—N-(2′-Amino-5′,5′-difluoro-2,3,5′,6′-tetrahydrospiro[indene-1,4′-[1,3]oxazine]-6-yl)-5-cyanopicolinamide | 27% yield | NC=1OCC([C@@]2(N1)CCC1=CC=C(C=C12)NC(C1=NC=C(C=C1)C#N)=O)(F)F | C19H15F2N5O2
